US04258058
4-[2-(4-Methoxybenzenesulphonylamino)-ethyl]-phenoxyacetic acid
A mixture of 10.35 g. (50 mMol) 4-methoxybenzenesulphonyl chloride and 50 ml. pyridine is added dropwise at 0°-10° C. in the course of 5 minutes to a solution of 11.2 g. (50 mMol) ethyl 4-(2-aminoethyl)-phenoxyacetate in 125 ml. anhydrous pyridine. The reaction mixture is allowed to warm up to ambient temperature and then kept at 60° C. for 45 minutes. Subsequently, the reaction mixture is evaporated to half its volume in a vacuum, then poured into ice-water and acidified with hydrochloric acid. The precipitated viscous mass is dissolved in toluene and the toluene phase successively extracted with dilute hydrochloric acid, an aqueous solution of sodium bicarbonate and water. After drying over anhydrous calcium chloride, the solution is evaporated in a vacuum and the residue triturated with some diethyl ether, crystallization thereby takes place. The product is filtered off with suction and recrystallized from a very small amount of diethyl ether. There are thus obtained 13.0 g. (66% of theory) ethyl 4-[2-(4-methoxybenzenesulphonylamino)-ethyl]-phenoxyacetate; m.p. 82°-83° C.

reactant | 4-methoxybenzenesulphonyl chloride | 50 mMol | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | ethyl 4-(2-aminoethyl)-phenoxyacetate | 50 mMol | NCCC1=CC=C(OCC(=O)OCC)C=C1 | C12H17NO3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[2-(4-Methoxybenzenesulphonylamino)-ethyl]-phenoxyacetic acid | COC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(OCC(=O)O)C=C1 | C17H19NO6S
